US07151102B2
A stirred mixture of 3-methoxy-2-pivalamidobenzoic acid (20 g, 0.08 mol) and 7M hydrochloric acid (280 ml) was heated under reflux for 2 hours then cooled to 0° C. A solution of sodium nitrite (5.8 g, 0.09 mol) in water (46 ml) was added dropwise at <5° C., the mixture was stirred at 0–5° C. for 2 hours, then a solution of potassium iodide (17.8 g, 0.11 mol) in water (39 ml) was added dropwise at 0–5° C. The stirred mixture was heated at 70–80° C. for 2 hours then cooled in ice. The product was extracted into ethyl acetate (3×300 ml), the combined extracts were washed with 20% aqueous sodium thiosulphate solution (3×300 ml), then they were dried (MgSO4) and the solvent was removed in vacuo to leave 2-iodo-3-methoxybenzoic acid (13 g, 58%) as a solid, m.pt. 142–146° C.

reactant | 3-methoxy-2-pivalamidobenzoic acid | 0.08 mol, 20 g | COC=1C(=C(C(=O)O)C=CC1)NC(C(C)(C)C)=O | C13H17NO4
reactant | hydrochloric acid | 7M, 280 ml | Cl | ClH
reactant | sodium nitrite | 0.09 mol, 5.8 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.11 mol, 17.8 g | [I-].[K+]
solvent | water | 46 ml | O | H2O
solvent | water | 39 ml | O | H2O
product | 2-iodo-3-methoxybenzoic acid | 13 g, 58% | IC1=C(C(=O)O)C=CC=C1OC | C8H7IO3
